US05925152
N-phenyl furamide was prepared by adding to a mixture of aniline (23.3 g; 250 mmol) and triethylamine (25.3 g; 250 mmol) in dichloromethane slowly 32.6 g (250 mmol) of 2-furoyl chloride, while maintaining the temperature at -10° C. The product obtained was washed with diluted hydrochloric acid and water, dried with magnesium sulphate and evaporated. The product so obtained was than triturated with hexane and filtered. 39.3 g (84% yield of product was recovered.

reactant | aniline | 250 mmol, 23.3 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 250 mmol, 25.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 250 mmol, 32.6 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-phenyl furamide | C1(=CC=CC=C1)NC(=O)C=1OC=CC1 | C11H9NO2
